Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-3.5079997778800003
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][H:8]>>[C:4]#[C:5][H:6].[H:1][C:2]#[C:3][O:7][H:8],3.26957374418
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[O:7]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-1.61424859752
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([H:4])=[C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])[H:12].[H:1][C:2]=[C:13]([H:14])[H:15],4.3066668566000015
[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][O:2][O:3],4.06923747726
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-0.809128417639
[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]([H:4])#[C:5][H:6].[C:2](#[C:3])[C:7]([H:8])([H:9])[H:10],0.90504437363
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[H:1][C:2]#[C:3][H:4],3.15752485034
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C@:10]([C:7]([O:6])([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15],0.8259376521100001
[H:1][C:2]#[C:3][C@@:6]([C:5]=[O:4])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[O:4][C:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],2.79055528478
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13],-0.25423180701
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4][O:5][H:6],7.971253262929999
[H:1][O:2][C:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](\[H:5])(=[C:6]\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3],0.588251407219
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.66751103773
[C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:1]=[O:2]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-2.32709073461
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4].[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],3.20515375087
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-4.1671398640099975
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-4.826847077669999
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[C:4]([H:5])([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3],2.5176473668
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.3191737669000005
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9],7.860272032869999
[H:1].[O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.58998297066
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],4.632232500330002
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3],6.201638078559999
[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4](=[C:5])[C:7]([H:8])([H:9])[H:10].[H:6],4.457578306459999
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.09984982247
[H:4].[O:1]=[C:2]=[O:3]>>[O:1][C:2](=[O:3])[H:4],0.253344407383
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.69963808298
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7][C:8]#[C:9][H:10]>>[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]#[C:9],4.30981851203
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[H:6].[O:1][C:2]([H:3])([H:4])[C:5]#[C:7][H:8],1.97205958906
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1=[C:10]([H:11])[H:12],-0.53571327992
